US04680391
Eight hundred microliters of chlorosulfonyl isocyanate was added to a solution of 1.28 g (10 mM) pent-1-enyl acetate in 5 ml methylene chloride at 0° under nitrogen. After stirring at 0° 5 days, the reaction mixture was added dropwise to a mixture of 5 g ice, 1.15 ml water, 2.82 g NaHCO3 and 1.0 g Na2SO3 and stirred at 0° for 30 minutes. The mixture was extracted with 2×25 ml methylene choride and the combined organic phases washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was chromatographed on silica gel in hexane/ethyl acetate to yield 60 mg trans 4-acetoxy-3-n-propylazetidin-2-one (3.4%).

reactant | chlorosulfonyl isocyanate | Eight hundred microliters | ClS(=O)(=O)N=C=O | CClNO3S
reactant | pent-1-enyl acetate | 10 mM, 1.28 g | C(C)(=O)OC=CCCC | C7H12O2
reactant | NaHCO3 | 2.82 g | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 1.0 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 1.15 ml | O | H2O
product | trans 4-acetoxy-3-n-propylazetidin-2-one | 60 mg, 3.4% | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)CCC | C8H13NO3
